US06087359
A solution of N-[[4-[(3-methylphenyl)thio]phenyl]sulfonyl]-N-[2-(4-morpholinyl)ethyl]-D-valine, 1,1-dimethylethyl ester, from Example 1d (5.21 g, 9.08 mmol) in 12 M HCl (30 mL) and H2O (30 mL) was stirred at room temperature for 30 minutes and then heated to reflux for 25 minutes. Concentration in vacuo afforded N-[[4-[(3-methylphenyl)thio]phenyl]sulfonyl]-N-[2-(4-morpholinyl)ethyl]-D-valine, monohydrochloride, as a white solid (5.30 g). MS MH+ calc'd for C24H33N2O5S2 : 494, found: 494. HRMS calc'd for C24H33N2O5S2 : 493.1831; found: 493.1833.

reactant | N-[[4-[(3-methylphenyl)thio]phenyl]sulfonyl]-N-[2-(4-morpholinyl)ethyl]-D-valine, 1,1-dimethylethyl ester | CC=1C=C(C=CC1)SC1=CC=C(C=C1)S(=O)(=O)N([C@H](C(C)C)C(=O)OC(C)(C)C)CCN1CCOCC1 | C28H40N2O5S2
reactant | HCl | 12 M, 30 mL | Cl | ClH
solvent | H2O | 30 mL | O | H2O
product | N-[[4-[(3-methylphenyl)thio]phenyl]sulfonyl]-N-[2-(4-morpholinyl)ethyl]-D-valine, monohydrochloride | Cl.CC=1C=C(C=CC1)SC1=CC=C(C=C1)S(=O)(=O)N([C@H](C(C)C)C(=O)O)CCN1CCOCC1 | InChI=1S/C24H32N2O5S2.ClH/c1-18(2)23(24(27)28)26(12-11-25-13-15-31-16-14-25)33(29,30)22-9-7-20(8-10-22)32-21-6-4-5-19(3)17-21;/h4-10,17-18,23H,11-16H2,1-3H3,(H,27,28);1H/t23-;/m1./s1
